US09376422B2
Step 3: Synthesis of tert-butyl 3-(3-amino-5-(methoxycarbonyl)-4-methylphenoxy)azetidine-1-carboxylate
To stirred solution of tert-butyl 3-(3-(methoxycarbonyl)-4-methyl-5-nitrophenoxy)azetidine-1-carboxylate (1.0 g, 2.7 mmol) in methanol (10 mL) was added a catalytic amount of 10% Pd/C. The mixture was stirred at room temperature under a hydrogen atmosphere (balloon pressure) for 3 hours. On completion, the reaction mixture was filtered through a celite bed which was further washed with methanol. The combined filtrates were concentrated under reduced pressure to afford the title compound (0.90 g, 98%).

reactant | tert-butyl 3-(3-(methoxycarbonyl)-4-methyl-5-nitrophenoxy)azetidine-1-carboxylate | 2.7 mmol, 1.0 g | COC(=O)C=1C=C(OC2CN(C2)C(=O)OC(C)(C)C)C=C(C1C)[N+](=O)[O-] | C17H22N2O7
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 3-(3-amino-5-(methoxycarbonyl)-4-methylphenoxy)azetidine-1-carboxylate | 0.90 g, 98% | NC=1C=C(OC2CN(C2)C(=O)OC(C)(C)C)C=C(C1C)C(=O)OC | C17H24N2O5
